US07566784B2
B) tert-Butyl 1-(4-aminophenyl)-1H-pyrrolo[3,2-c]pyridin-4-ylcarbamate
A solution of 1-(4-nitrophenyl)-1H-pyrrolo[3,2-c]pyridin-4-amine (37 mg, 0.15 mmol) in t-butanol (1 mL) was treated with di-tert-butyl dicarbonate (Aldrich, 35 mg, 0.16 mmol). The reaction mixture was stirred at 45° C. for 24 h and concentrated in vacuo. The residue was immediately dissolved in a THF-MeOH solution (3:2, 1 mL) and treated sequentially with Zn powder (95 mg, 1.5 mmol) and ammonium chloride (79 mg, 1.5 mmol). The reaction mixture was stirred at ambient temperature for 4 h, filtered, and the filtrate was concentrated in vacuo. The residue was then partitioned between EtOAc (5 mL) /H2O (5 mL). The layers were separated and the aqueous phase was extracted with EtOAc (3×5 mL). The combined organics were washed with saturated aq. NaCl soln. (2×10 mL), dried (Na2SO4) and concentrated in vacuo. The crude product was purified using a Chromatotron (1 mm SiO2 GF rotor, eluting with 5% MeOH-CHCl3) to afford the title compound (27 mg, 57% over two steps) as an off-white solid. LCMS (ESI+) m/z 325 (M+H)+; HPLC tR=2.44 min.

reactant | 1-(4-nitrophenyl)-1H-pyrrolo[3,2-c]pyridin-4-amine | 0.15 mmol, 37 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C=CC=2C(=NC=CC21)N | C13H10N4O2
reactant | di-tert-butyl dicarbonate | 0.16 mmol, 35 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium chloride | 1.5 mmol, 79 mg | [Cl-].[NH4+]
solvent | t-butanol | 1 mL | C(C)(C)(C)O | C4H10O
catalyst | Zn | 1.5 mmol, 95 mg | [Zn] | Zn
product | tert-Butyl 1-(4-aminophenyl)-1H-pyrrolo[3,2-c]pyridin-4-ylcarbamate | 27 mg, 57% | NC1=CC=C(C=C1)N1C=CC=2C(=NC=CC21)NC(OC(C)(C)C)=O | C18H20N4O2
